US08802670B2
To N—BOC-piperazine (1.3 g) in dry DCM (10 ml) was added triethylamine (1.2 mL) and cyclopropanesulphonyl chloride (1.04 g) and the reaction mixture was stirred at room temperature for 16 hours. The reaction mixture was then diluted with DCM, washed with water, dried (MgSO4) and reduced in vacuo. The residue was dissolved in methanol (10 mL) and 4M HCL in dioxane was added (20 mL). After stirring overnight the solvent was reduced in vacuo to yield 1-cyclopropanesulfonyl-piperazine hydrochloride.

reactant | N—BOC-piperazine | 1.3 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | triethylamine | 1.2 mL | C(C)N(CC)CC | C6H15N
reactant | cyclopropanesulphonyl chloride | 1.04 g | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-cyclopropanesulfonyl-piperazine hydrochloride | Cl.C1(CC1)S(=O)(=O)N1CCNCC1 | InChI=1S/C7H14N2O2S.ClH/c10-12(11,7-1-2-7)9-5-3-8-4-6-9;/h7-8H,1-6H2;1H
